US07875730B2
A mixture of Carvedilol salicylate (36.0 g, 66.18 mmole) and 2-propanol (108 ml) is heated to 50° C. to 55° C. To this, a solution of sodium hydroxide (4.5 g) in water (36 ml) is added slowly in about 30 minutes. The solution is then stirred at 65° C. to 70° C. for 15 minutes and filtered, followed by two 18 ml wash with hot (55° C. to 60° C.) 2-propanol. The filtrate is cooled to 30° C. to 40° C., 18 ml of water is added and stirred at 25° C. to 35° C. for 3 hours. The precipitated product is filtered, followed by two 30 ml wash with water. The wet product dried at 50° C. to 55° C. till constant weight gives 24.5 g of Carvedilol (Yield=91.21%).

reactant | Carvedilol salicylate | 66.18 mmole, 36.0 g | COC=1C=CC=CC1OCCNCC(COC=2C=CC=C3C2C=4C=CC=CC4N3)O.C(C=1C(O)=CC=CC1)(=O)[O-]
reactant | 2-propanol | 108 ml | CC(C)O | C3H8O
reactant | sodium hydroxide | 4.5 g | [OH-].[Na+]
solvent | water | 36 ml | O | H2O
product | Carvedilol | 24.5 g, Yield=91.21% | COC=1C=CC=CC1OCCNCC(COC=2C=CC=C3C2C=4C=CC=CC4N3)O | C24H26N2O4
